US07238716B2
To a mixture of 2-(5-methyl-2-phenyl-4-oxazolyl)ethanol (5.64 g), methyl 3-hydroxy-5-isoxazolecarboxylate (8.00 g), tributylphosphine (15.9 g) and tetrahydrofuran (200 mL) was added a solution (100 mL) of 1,1′-(azodicarbonyl)dipiperidine (19.9 g) in tetrahydrofuran at room temperature and the mixture was stirred for 15 hrs. The precipitated crystals were removed by filtration and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give crystals (9.50 g, 73%) of methyl 3-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-isoxazolecarboxylate from a fraction eluted with ethyl acetate-hexane (1:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 90-91° C.

reactant | 2-(5-methyl-2-phenyl-4-oxazolyl)ethanol | 5.64 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | methyl 3-hydroxy-5-isoxazolecarboxylate | 8.00 g | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | tributylphosphine | 15.9 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 100 mL, 19.9 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | methyl 3-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]-5-isoxazolecarboxylate | 9.50 g, 73% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=NOC(=C1)C(=O)OC | C17H16N2O5
